US06235731B1
1) Synthesis of N-[4-(4-benzoylpiperazin-1-yl)butan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide
To a suspension of 1.0 g (4.58 mmol.) of 5-thia-1,8b-diazaacenaphthylene-4-carboxylic acid and 1.05 g (9.12 mmol.) of N-hydroxysuccinimide in acetonitrile (15 ml) was added, at room temperature, 1.76 g (9.18 mmol.) of N-ethyl-N′-3-(N,N-dimethylamino)propylcarbodiimide hydrochloride. The mixture was stirred for 2 hours. To the reaction system was added a solution of 1.68 g (5.5 mmol.) of 4-(4-aminobutan-1-yl)-1-benzoylpiperazine dihydrochloride, 1.68 g (11.04 mmol.) of 1,8-diazabicyclo[5.4.0]undecene (DBU) and 1.5 ml (10.76 mmol.) of triethylamine in acetonitrile (10 ml). The mixture was stirred for further 2 hours. The solvent was distilled off under reduced pressure. To the residue was added water, which was subjected to extraction with ethyl acetate (a small volume of ethanol was also used). The organic layer was washed with a saturated aqueous saline solution and dried over magnesium sulfate, followed by distilling off the solvent. The residue was purified by means of a column chromatography (methanol/ethyl acetate 20-30%) to give the object compound as a reddish amorphous product. The yield was 1.25 g (59%).

reactant | 5-thia-1,8b-diazaacenaphthylene-4-carboxylic acid | 4.58 mmol, 1.0 g | N=1C=C2C=C(SC3=CC=CC1N23)C(=O)O | C10H6N2O2S
reactant | N-hydroxysuccinimide | 9.12 mmol, 1.05 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | N-ethyl-N′-3-(N,N-dimethylamino)propylcarbodiimide hydrochloride | 9.18 mmol, 1.76 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 4-(4-aminobutan-1-yl)-1-benzoylpiperazine dihydrochloride | 5.5 mmol, 1.68 g | Cl.Cl.NCCCCN1CCN(CC1)C(C1=CC=CC=C1)=O
reactant | 1,8-diazabicyclo[5.4.0]undecene | 11.04 mmol, 1.68 g | N12C=CCCCC2NCCC1 | C9H16N2
reactant | triethylamine | 10.76 mmol, 1.5 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | N-[4-(4-benzoylpiperazin-1-yl)butan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | C(C1=CC=CC=C1)(=O)N1CCN(CC1)CCCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C25H27N5O2S
